US07884210B2
3-{2-[3,3-Bis-(3-methyl-butyl)-ureido]-thiazol-5-ylsulfanyl}-propionic acid
Prepared as described for the synthesis of [2-(3-cyclohexyl-3-phenethyl-ureido)-thiazol-5-ylsulfanyl]-acetic acid using isovaleraldehyde, 3-methyl-butylamine and (2-amino-thiazol-5-ylsulfanyl)-propionic acid ethyl ester.

reactant | [2-(3-cyclohexyl-3-phenethyl-ureido)-thiazol-5-ylsulfanyl]-acetic acid | C1(CCCCC1)N(C(NC=1SC(=CN1)SCC(=O)O)=O)CCC1=CC=CC=C1 | C20H25N3O3S2
reactant | isovaleraldehyde | C(CC(C)C)=O | C5H10O
reactant | 3-methyl-butylamine | CC(CCN)C | C5H13N
reactant | (2-amino-thiazol-5-ylsulfanyl)-propionic acid ethyl ester | C(C)OC(C(C)SC1=CN=C(S1)N)=O | C8H12N2O2S2
product | 3-{2-[3,3-Bis-(3-methyl-butyl)-ureido]-thiazol-5-ylsulfanyl}-propionic acid | CC(CCN(C(NC=1SC(=CN1)SCCC(=O)O)=O)CCC(C)C)C | C17H29N3O3S2
